2151-11-24 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-11-23**] 11:20 AM
 PA CATHETER - START [**2151-11-23**] 06:35 PM
 LUMBAR PUNCTURE - At [**2151-11-24**] 12:07 AM
 MULTI LUMEN - STOP [**2151-11-24**] 04:59 AM
   - tried on just Dobutamine but tachycardic w/ MAPs 57-58, started back
   on levophed as well
   - Had CT head and neck
   - Swan placed
   - high PCWP 24 consistent with cardiogenic shock
   - LP done
   - increased PEEPs through the day to 15
   - PA catheter: PAP's elevated in high 20's, PCWP 22, SVO2's normal
   62-72%, CVP's elevated in 20's, SVR's high, SV low, CO/CI's low by CCO
   and normal by Fick's
   - Still tachycardic and bp's in the 90-100's. --> EKG showing AFib
   - Stop Levo and start Neo
   - Now back in sinus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2151-11-23**] 09:01 PM
   Vancomycin - [**2151-11-23**] 10:02 PM
   Ampicillin - [**2151-11-23**] 10:28 PM
   Acyclovir - [**2151-11-24**] 12:03 AM
   Cefipime - [**2151-11-24**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 1.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-24**] 02:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-24**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 106 (85 - 129) bpm
   BP: 99/69(78) {84/51(61) - 119/78(87)} mmHg
   RR: 22 (10 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 22 (19 - 26)mmHg
   PAP: (32 mmHg) / (23 mmHg)
   PCWP: 22 (22 - 22) mmHg
   CO/CI (Fick): (7.5 L/min) / (3.6 L/min/m2)
   CO/CI (CCO): (2.9 L/min) / (1.4 L/min/m2)
   SvO2: 68%
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  8,332 mL
                                                                    640 mL
   PO:
   TF:
   IVF:
                                                                  1,897 mL
                                                                    435 mL
   Blood products:
                                                                    435 mL
                                                                    145 mL
   Total out:
                                                                    790 mL
                                                                    185 mL
   Urine:
                                                                    790 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                             7,542  --> 8L up through LOS, 30-100 cc/hr mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 53.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.36/34/97/22/-5   <-- 7.36/34/97/20  <--  7.35/37/77/21
   Ve: 10.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Unresponsive to verbal or tactile stimulation. Cold
   extremities.
   Cardiovascular: Has occasional rub but is variable according to
   position and heart rate.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Light upperway rhonchi on inspiration but
   otherwise fairly clear
   Abdominal: Distended but doesn't grimace to palpation of his abdomen
   Extremities: Pitting edema of bilateral lower extrems. All extrems are
   cold and mottled.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   10.1 g/dL
   234 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   134 mEq/L
   30
   15.3 K/uL
        [image002.jpg]
                            [**2151-11-23**]  06:01 AM
                            [**2151-11-23**]  08:34 AM
                            [**2151-11-23**]  10:52 AM
                            [**2151-11-23**]  12:51 PM
                            [**2151-11-23**]  02:58 PM
                            [**2151-11-23**]  03:15 PM
                            [**2151-11-23**]  07:16 PM
                            [**2151-11-23**]  11:06 PM
                            [**2151-11-24**]  03:41 AM
                            [**2151-11-24**]  03:55 AM
   WBC
   18.4
   17.7
   15.3
   Hct
   34.3
   32.0
   33.8
   30.8
   30
   Plt
   [**Telephone/Fax (3) 11405**]
   Cr
   0.9
   0.9
   0.9
   TropT
   0.06
   0.09
   TCO2
   20
   21
   22
   21
   21
   20
   Glucose
   83
   187
   234
   Other labs: PT / PTT / INR:20.1/31.0/1.9, CK / CKMB /
   Troponin-T:64//0.09   TropT trending up , ALT / AST:64/142    (today)
   trending up , Alk Phos / T Bili:89/1.2    <-- 1.0 , Lactic Acid:1.9
   mmol/L, Albumin:3.0 g/dL, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: LP: 1 WBC (lympho), 0 RBC, Prot 33, Gluc
   110, LDH 27, Gstain negative, all else pending
   lipase normal
   UA small blood, no infxn, 34 RBC's
   Imaging: CXR this am looks fairly clear, with improvement in the RLL
   and LLL haziness
   [**11-23**] CTA neck
   Incorrectly ordered study to look for abscess/thrombophlebitis No gross
   abscess; evaluaiton of veins is limited due to timing. Patent major
   arteries- final read pending reformations for osseous spine and
   arteries.
   [**11-23**] CT head final read pending but nothing grossly abnormal
   [**11-23**] CT abdomen
   IMPRESSION:
   1. Peripheral filling defect in the posterior segment branch of the
   lower
   lobe pulmonary artery may represent a chronic pulmonary embolism versus
   lymph
   node.No other filling defects are seen.
   2. Severe liver cirrhosis with recanalization of the umbilical vein and
   varices adjacent to the gastroesophageal junction and moderate
   intra-abdominal
   ascites.
   3. Apparent wall thickening of the ascending colon may be related to
   liver
   disease and intra-abdominal ascites; however colitis cannot be
   excluded.
   Clinical correlation is recommended.
   4. Peripancreatic fluid may be related to liver disease; however
   pancreatitis
   is not entirely excluded and correlation with amylase, lipase is
   recommended.
   These values were not available at the time of this dictation.
   5. Bilateral small pleural effusions and lower lobe atelectasis -
   consolidation.
   [**11-23**] echo
   IMPRESSION: Severe global biventricular systolic dysfunction with some
   regionality. Moderate tricuspid regurgitation. Elevated filling
   pressures.
   Among other etiologies, these findings could be consistent with a
   global process (septic, toxic, metabolic) or a variant of acute stress
   (Takotsubo) cardiomyopathy. Multivessel coronary artery disease as the
   sole etiology of these abnormalities is less likely.
   Microbiology: HSV from CSF pending
   Gstain negative to date
   HIV CSF pending
   Crypto Ag pending
   Flu DFA from nasopharyngeal swab pending
   [**11-24**] sputum pending
   [**11-23**] UCx pending
   [**11-23**] Blood pending
   ECG: Increased voltages in precordial leads but decreased voltages in
   other leads
   Assessment and Plan
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 48 year old gentleman with ESLD [**2-15**] Hemochromatosis presents in
   cardiogenic shock with hypoxic respiratory failure of unknown etiology,
   including preliminarily negative CT head, CT neck, and LP.
   1. Shock: The patient has features of hypovolemic and cardogenic shock
   (peri/myocarditis, silent MI) with a pericardial rub and some EKG
   changes.  Septic shock is also possible but his peripheral
   vasoconstriction is not consistent with this. Thought to possibly be
   meningitis but ruled out with negative CSF.
   - F/u Cards consult to see how to further work up the etiology of this
   heart failure
   - Continue on Levophed only and optimize cardiac output
   - Continue Vanc/ Cefipime / Acyclovir / Cipro but will d/c Ampicillin
   as this was covering Listeria and CSF Gstain is negative
   - F/u flu DFA
   - F/u LP Cx
s and serologies
   - Need to get consent and do HIV test today
   - F/u final read of CT head and neck
   - F/u PPD tomorrow
   - If any changes seen on telemetry get 12 lead EKG
   - Consider echo with bubble study
   2. Hypoxic respiratory failure: The patient appears to have a chronic
   PE and bilateral effusions on CT chest but his cause for hypoxia is
   unclear.  His respiratory status is tenuous.
   - Continues on the ventilator, try to maximize settings
   3. ESLD/Hemochromatosis: Unable to tap ascites, known varices. LFT's
   trending up today.
   - T & S, 2 peripherals, Blood consent
   - Paracentesis if possible
   - Hold spironolactone/nadolol while unstable
   - Lactulose for ? encephalopathy
   4. Sore throat: Concerning for lemierres, retropharyngeal or neck
   abscess/infection, meningitis
   - Head/Neck CT has been negative and CSF also negative
   5. DM2: Glargine & insulin SS
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: Subutaneous heparin, Bowel reg, will change Omeprazole to
   IV form or IV H2B
   Access: peripherals x2, Art line, PA catheter
   Code:  Full (discussed with patient)
   Communication: Patient & Wife [**Name (NI) **] [**Telephone/Fax (1) 11391**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-23**] 06:05 AM
   18 Gauge - [**2151-11-23**] 06:05 AM
   20 Gauge - [**2151-11-23**] 06:05 AM
   PA Catheter - [**2151-11-23**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-11-24 10:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-11-23**] 11:20 AM
 PA CATHETER - START [**2151-11-23**] 06:35 PM
 LUMBAR PUNCTURE - At [**2151-11-24**] 12:07 AM
 MULTI LUMEN - STOP [**2151-11-24**] 04:59 AM
   Swan.  Afib.  Trial of neo --> back to levophed.  LP.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-23**] 10:02 PM
   Ampicillin - [**2151-11-23**] 10:28 PM
   Acyclovir - [**2151-11-24**] 12:03 AM
   Cefipime - [**2151-11-24**] 04:00 AM
   Ciprofloxacin - [**2151-11-24**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-24**] 02:05 AM
   Other medications:
   bowel reg, SQH, PPI, lactulose, SQI, versed, fentanyl, CHG, acyclovir,
   amp, cefepime, cipro, vanco, levophed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-24**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 110 (77 - 129) bpm
   BP: 101/63(74) {84/51(61) - 119/78(87)} mmHg
   RR: 23 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 27 (19 - 29)mmHg
   PAP: (37 mmHg) / (29 mmHg)
   PCWP: 12 (12 - 22) mmHg
   CO/CI (Fick): (3.7 L/min) / (1.7 L/min/m2)
   CO/CI (CCO): (3.9 L/min) / (1.8 L/min/m2)
   SvO2: 46%
   Mixed Venous O2% Sat: 62 - 65
                                Total In:
                                                                  8,332 mL
                                                                  1,048 mL
   PO:
                                TF:
   IVF:
                                                                  1,897 mL
                                                                    843 mL
   Blood products:
                                                                    435 mL
                                                                    145 mL
   Total out:
                                                                    790 mL
                                                                    185 mL
   Urine:
                                                                    790 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,542 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 143.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/40/50/22/-4
   Ve: 10.5 L/min
   PaO2 / FiO2: 50
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), >rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   10.1 g/dL
   225 K/uL
   234 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   134 mEq/L
   30
   15.3 K/uL
        [image002.jpg]
                            [**2151-11-23**]  08:34 AM
                            [**2151-11-23**]  10:52 AM
                            [**2151-11-23**]  12:51 PM
                            [**2151-11-23**]  02:58 PM
                            [**2151-11-23**]  03:15 PM
                            [**2151-11-23**]  07:16 PM
                            [**2151-11-23**]  11:06 PM
                            [**2151-11-24**]  03:41 AM
                            [**2151-11-24**]  03:55 AM
                            [**2151-11-24**]  06:42 AM
   WBC
   18.4
   17.7
   15.3
   Hct
   34.3
   32.0
   33.8
   30.8
   30
   Plt
   [**Telephone/Fax (3) 11405**]
   Cr
   0.9
   0.9
   0.9
   TropT
   0.06
   0.09
   TCO2
   21
   22
   21
   21
   20
   22
   Glucose
   83
   187
   234
   Other labs: PT / PTT / INR:20.1/31.0/1.9, CK / CKMB /
   Troponin-T:64//0.09, ALT / AST:64/142, Alk Phos / T Bili:89/1.2, Lactic
   Acid:2.7 mmol/L, Albumin:3.0 g/dL, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Fluid analysis / Other labs: CSF protein 33, glucose 100, 1 wbc (lymph)
   Imaging: CT head and neck formal read pending
   CXR without impressive infiltrate.  ET about 6cm above carina
   Microbiology: Flu DFA negative
   MRSA screen (+)
   All other data NGSF
   ECG: Low limb lead voltage
   Assessment and Plan
   48-year-old man with
          Shock
          Hypoxemic respiratory failure
          Encephalopathy
          Cirrhosis
   His shock picture is likely mixed.  On exam, he is cold and clamped
   down.  Thermodilution cardiac output has been quite variable.
   Creatinine and lactate are reassuring; MVO2 is relatively reassuring,
   but hard to know what his VO2 is.  Hypoxemia is severe, and relatively
   clear CXR suggests shunt.  Similar RA, PCWP, PA diastolic raises
   concern for pericardial or restrictive disease.  Substantial whip in
   wedge tracing right now; hard to assess for waveforms.
   Today, we will
          trial dobuta on top of levophed today.
          Consult ID for recommendations about further potential
   infectious assessment.  Fairly extensive evaluation to date, including
   LP, has been unremarkable.
          TSH/cortisol
          Discuss with cardiology regarding further diagnostic and
   therapeutic maneuvers, including potential diuresis, right heart
   cath/left heart cath, assist devices.
          Other issues as per ICU team note today.
   I
ve discussed with wife.  Further updates to follow.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2151-11-23**] 06:05 AM
   18 Gauge - [**2151-11-23**] 06:05 AM
   20 Gauge - [**2151-11-23**] 06:05 AM
   PA Catheter - [**2151-11-23**] 06:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 80 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   Seen multiple times throughout the day, and discussed with multiple
   members of the cardiology team, as well as ID and family members.
   Echo confirms ASD with R
 L shunt at rest.
   CO variable throughout the day, sometimes with discrepancy between Fick
   and thermodilution.
   Seen by ID.  Most recommendations implemented; based on my exam and
   review of CT showing very small ascites, I feel that the risks of
   paracentesis substantially outweigh potential benefits at present.
   We will continue tailored therapy, supporting with levophed and if
   needed dobuta.  [**Month (only) 51**] be reasonable to trial decreased PEEP given PFO,
   but leave stable for now.  I agree with cardiology that there is no
   acute need for mechanical assist device.  If BP and other parameters
   remain stable for several hours, may be reasonable to begin attempt at
   gentle diuresis.
   Discussed in detail by phone with pt
s wife.  [**Name (NI) **] questions answered.
   45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2151-11-24**] 21:08 ------

2151-11-25 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Cardiogenic shock
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-25**] 02:16 AM
 URINE CULTURE - At [**2151-11-25**] 02:19 AM
 BLOOD CULTURED - At [**2151-11-25**] 04:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-25**] 04:22 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-25**] 04:24 AM
 BLOOD CULTURED - At [**2151-11-25**] 05:00 AM
 FEVER - 102.4
F - [**2151-11-25**] 06:00 AM
   - cardiology wanted to go to cath and possibly place impala/balloon
   pump.  Echo before-hand looked improved so they decided to hold off.
   - ECHO with bubble study: A right-to-left shunt across the interatrial
   septum is seen at rest with prompt appearance of
   contrast in the left heart after intravenous injection c/w an
   atrial septal defect.
   - ID: switched cefepime to zosyn for better gram negative coverage,
   started clindamycin for possible toxic shock syndrome. Started
   doxycycline in case of lyme/erlichia.  Recommended paracentesis.
   Recommended multiple viral serologies which were ordered.
   - Patient was shifted around midnight and became acutely hypotensive.
   Levophed had to be increased from 0.08 to 0.2 to maintain pressures.
   Patient was given small dose of dobutamine, but became tachy to 120.
   Appeared ashen on exam.  Talked to cardiology, patient also had
   low-grade temp, so intervention seemed unwise.  Recommended considering
   diuresis.
   - Temperature to 102.4 at 2am. Blood cultures sent, urine cx and CXR
   ordered.  CXR unchaged.
   - Patient became acutely tachycardic w/ afib w/ RVR around 3:30 to 4am,
   dropped pressures.  Supported w/ levophed but tenuous.  Tried to shock,
   but did not come out.  Increasingly febrile (back up to 102.4) despite
   cooling blanket, ice packs and tyelenol.  Given digoxin load.  Family
   called to bedside.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-11-24**] 04:00 AM
   Acyclovir - [**2151-11-24**] 04:00 PM
   Ampicillin - [**2151-11-24**] 04:00 PM
   Vancomycin - [**2151-11-24**] 09:43 PM
   Clindamycin - [**2151-11-25**] 12:29 AM
   Doxycycline - [**2151-11-25**] 01:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-25**] 05:26 AM
   Ciprofloxacin - [**2151-11-25**] 06:02 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-24**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-25**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 152 (77 - 159) bpm
   BP: 91/84(87) {75/57(68) - 105/84(147)} mmHg
   RR: 20 (0 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
    CVP: 30 (19 - 31)mmHg
   PAP: (41 mmHg) / (32 mmHg)
   PCWP: 19 (19 - 19) mmHg
   CO/CI (Fick): (6 L/min) / (2.8 L/min/m2)
   CO/CI (CCO): (3.4 L/min) / (1.6 L/min/m2)
   SvO2: 64%
   Mixed Venous O2% Sat: 53 - 69
   Total In:
                                                                  2,901 mL
                                                                    845 mL
   PO:
   TF:
   IVF:
                                                                  2,486 mL
                                                                    845 mL
   Blood products:
                                                                    145 mL
   Total out:
                                                                    605 mL
                                                                    120 mL
   Urine:
                                                                    605 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,296 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 68.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/38/60/19/-4
   Ve: 9.2 L/min
   PaO2 / FiO2: 60
   Physical Examination
   General Appearance: Unresponsive to verbal or tactile stimulation. Cold
   extremities.
   Cardiovascular: Systolic and diastolic murmur..
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Light upperway rhonchi on inspiration but
   otherwise fairly clear
   Abdominal: Distended but doesn't grimace to palpation of his abdomen
   Extremities: Pitting edema of bilateral lower extrems. All extrems are
   cold and mottled.
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   10.3 g/dL
   255 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.8 mEq/L
   29 mg/dL
   102 mEq/L
   130 mEq/L
   33
   12.2 K/uL
        [image002.jpg]
                            [**2151-11-24**]  06:42 AM
                            [**2151-11-24**]  10:20 AM
                            [**2151-11-24**]  02:11 PM
                            [**2151-11-24**]  05:24 PM
                            [**2151-11-24**]  05:26 PM
                            [**2151-11-24**]  10:37 PM
                            [**2151-11-24**]  10:39 PM
                            [**2151-11-25**]  03:27 AM
                            [**2151-11-25**]  03:59 AM
                            [**2151-11-25**]  04:45 AM
   WBC
   11.0
   12.2
   Hct
   33
   29.7
   31
   33
   33.6
   30
   33
   Plt
   166
   252
   Cr
   1.1
   TropT
   0.18
   0.32
   TCO2
   22
   22
   23
   23
   21
   Glucose
   255
   Other labs: PT / PTT / INR:20.3/31.7/1.9, CK / CKMB /
   Troponin-T:47/4/0.32, ALT / AST:95/210, Alk Phos / T Bili:90/1.1,
   Amylase / Lipase:/6, Differential-Neuts:66.2 %, Lymph:27.1 %, Mono:6.1
   %, Eos:0.3 %, Lactic Acid:2.6 mmol/L, Albumin:2.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: clear and unchanged.
   Microbiology: Multiple viral serologies: pending
   Blood cx: pending
   Influenza DFA: negative
   Assessment and Plan
 SHOCK, CARDIOGENIC
 SHOCK, SEPTIC
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   A 48 year old gentleman with ESLD [**2-15**] Hemochromatosis presents in
   cardiogenic shock with hypoxic respiratory failure of unknown etiology,
   including preliminarily negative CT head, CT neck, and LP.
   1. Shock: The patient appears to be in cardiogenic shock with cool,
   clammy extremities and elevated CVPs.  His low CO is low, worsened by
   the rapid rate.  Previous attempts at cardioversion were compromised by
   high sympathetic tone of fevers and many anti-arrhythmic medications
   risk lowering his blood pressure.  Though he is afebrile, we will
   continue all antibiotics for now until clinical condition improves.
   - Continue digoxin load through today, then if it seems effective can
   give daily dose.
   - Goal is to lower temperature and re-attempt cardioversion if his
   temperature comes down appreciably.
   - Continue on just levophed as pressor.
   - monitor renal failure.
   - F/u Cards recs
   - Vanc
   - F/u multiple viral cultures including DFA.
   - f/u HIV test.
   - f/u PPD today.
   - Consider lower PEEP to allow better heart filling.
   2.  Fevers: Unclear whether patient is septic (which is unlikely) or
   febrile from other source.  Patient on cipro/zosyn/vanc for generalized
   bacterial infection, clindamycin for coverage of toxic shock and
   doxycycline for atypical source.  Other possibility for fever would be
   a drug fever.  We will be cautious in removing antibiotics, but if
   nothing works for taking down fevers, can consider NSAIDS (despite
   renal toxicity) and d/c
ing antibiotics (an almost last resort).
   3. Hypoxic respiratory failure: Patient is requiring high levels of
   respiratory support but his CXR is relatively clear.  Reason is
   unclear.  Possibilities include ARDS (most likely) and MI.
   - Continues on the ventilator, try to maximize settings
   3. ESLD/Hemochromatosis: Unable to tap ascites, known varices. LFT's
   trending up.
   - T & S, 2 peripherals, Blood consent
   - Paracentesis if possible
   - Hold spironolactone/nadolol while unstable
   4. Sore throat: Concerning for lemierres, retropharyngeal or neck
   abscess/infection, meningitis
   - Head/Neck CT has been negative and CSF also negative
   5. DM2: Glargine & insulin SS
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: Subutaneous heparin, Bowel reg, lansoprazole
   Access: peripherals x2, Art line, PA catheter
   Code:  Full (discussed with patient and sife).
   Communication: Patient & Wife [**Name (NI) **] [**Telephone/Fax (1) 11391**]
   [**Name2 (NI) **]osition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-23**] 06:05 AM
   18 Gauge - [**2151-11-23**] 06:05 AM
   20 Gauge - [**2151-11-23**] 06:05 AM
   PA Catheter - [**2151-11-23**] 06:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-11-25 08:54:00 Physician Attending Progress Note
Chief Complaint: Cardiogenic shock, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Febrile to 102.4 overnight with development of afib/RVR and
   accompanying hypotension requiring increasing doses of levophed
   24 Hour Events:
 BLOOD CULTURED - At [**2151-11-25**] 02:16 AM
 URINE CULTURE - At [**2151-11-25**] 02:19 AM
 BLOOD CULTURED - At [**2151-11-25**] 04:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-25**] 04:22 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-25**] 04:24 AM
 BLOOD CULTURED - At [**2151-11-25**] 05:00 AM
 FEVER - 102.4
F - [**2151-11-25**] 06:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-11-24**] 04:00 AM
   Acyclovir - [**2151-11-24**] 04:00 PM
   Ampicillin - [**2151-11-24**] 04:00 PM
   Vancomycin - [**2151-11-24**] 09:43 PM
   Clindamycin - [**2151-11-25**] 12:29 AM
   Doxycycline - [**2151-11-25**] 01:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-25**] 05:26 AM
   Ciprofloxacin - [**2151-11-25**] 06:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-24**] 10:13 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-11-25**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39
C (102.2
   HR: 143 (96 - 159) bpm
   BP: 86/77(80) {75/57(68) - 105/84(147)} mmHg
   RR: 16 (0 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
   CVP: 28 (19 - 31)mmHg
   PAP: (39 mmHg) / (31 mmHg)
   PCWP: 19 (19 - 19) mmHg
   CO/CI (Fick): (5.8 L/min) / (2.7 L/min/m2)
   CO/CI (CCO): (2.9 L/min) / (1.4 L/min/m2)
   SvO2: 63%
   Mixed Venous O2% Sat: 53 - 69
   Total In:
                                                                  2,901 mL
                                                                    902 mL
   PO:
   TF:
   IVF:
                                                                  2,486 mL
                                                                    902 mL
   Blood products:
                                                                    145 mL
   Total out:
                                                                    605 mL
                                                                    135 mL
   Urine:
                                                                    605 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,296 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 68.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/38/60/19/-4
   Ve: 11.7 L/min
   PaO2 / FiO2: 60
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   252 K/uL
   255 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.8 mEq/L
   29 mg/dL
   102 mEq/L
   130 mEq/L
   33
   12.2 K/uL
        [image002.jpg]
                            [**2151-11-24**]  06:42 AM
                            [**2151-11-24**]  10:20 AM
                            [**2151-11-24**]  02:11 PM
                            [**2151-11-24**]  05:24 PM
                            [**2151-11-24**]  05:26 PM
                            [**2151-11-24**]  10:37 PM
                            [**2151-11-24**]  10:39 PM
                            [**2151-11-25**]  03:27 AM
                            [**2151-11-25**]  03:59 AM
                            [**2151-11-25**]  04:45 AM
   WBC
   11.0
   12.2
   Hct
   33
   29.7
   31
   33
   33.6
   30
   33
   Plt
   166
   252
   Cr
   1.1
   TropT
   0.18
   0.32
   TCO2
   22
   22
   23
   23
   21
   Glucose
   255
   Other labs: PT / PTT / INR:20.3/31.7/1.9, CK / CKMB /
   Troponin-T:47/4/0.32, ALT / AST:95/210, Alk Phos / T Bili:90/1.1,
   Amylase / Lipase:/6, Differential-Neuts:66.2 %, Lymph:27.1 %, Mono:6.1
   %, Eos:0.3 %, Lactic Acid:2.6 mmol/L, Albumin:2.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Microbiology: Influenza DFA negative
   Assessment and Plan
 SHOCK, CARDIOGENIC
 SHOCK, SEPTIC
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   48 yo man with multi-organ failure in setting of hemachromatosis with
   cardiogenic shock, respiratory failure, large PFO with right to left
   shunt.
   1. Cardiogenic shock: More hypotensive with high rate.  Dig loading.
   On norepinephrine.  Unable to cardiovert electrically overnight - will
   reassess potential lefficacy of DCCV with fever down - getting Tylenol.
   2. Respiratory Failure: CXR clear despite refractory hypoxemia
   requiring FIO2 of 1.0.  Could PEEP be augmenting R to L shunt?  WIll
   try to decrease PEEP slightly and evaluate pO2 - but need to do this
   very carefully.
   3. Fever: No clear source at this point - being covered broadly with
   multiple antibiotics.  ? Drug fever.  Ascites too deep to tap at this
   point.
   4. Renal failure: Urine output is minimal - likely due to worsening
   cardiac output in setting of tachycardia
   Mr. [**Known lastname **] is extememly tenuous with a very poor prognosis.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2151-11-23**] 06:05 AM
   18 Gauge - [**2151-11-23**] 06:05 AM
   20 Gauge - [**2151-11-23**] 06:05 AM
   PA Catheter - [**2151-11-23**] 06:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Patient is critically ill
   Addendum: Tried trial of decrease of PEEP to 12
 pt desaturated and
   PEEP brought back up to 15.  Discussed case with Dr. [**Last Name (STitle) 2736**] from
   cardiology
 given that we cannot meaningfully reverse his cardiogenic
   shock and hypoxemia with our current management, we will proceed with
   attempt to put in endovascular device in cath lab that will augment LV
   output and endovasucular closure of ASD.  If he does have hemodynamic
   improvement with device, he will go to the CCU for further management.
   Team discussed with family who are in agreement with plan.
    Total time spent: 45 minutes

2151-11-26 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2151-11-25**] 09:00 PM
 ARTERIAL LINE - START [**2151-11-25**] 11:00 PM
 FEVER - 104.9
C - [**2151-11-26**] 06:00 AM
   - A-line placed, on Impella (feed line for motor is kinked and broken,
   internal lumen intact), 13 french - may need to be replaced.
   - started on vasopressin (in addition to levophed,) unable to maintain
   pressure with one presser, random cortisol was drawn.
   - metabolic acidosis with respiratory acidosis was noted at midnight,
   changed vent settings to adjust for metabolic acidosis.  Did not
   adequately control the acidosis and noted to have worsening pO2 and
   lactate, with raising K.  Patient recieved bicard x3, calcium
   gluconate, kaxeyelate x1.  SpO2 was not improving with increasing O2,
   concerned for closure device displacment.
   - Thought to have equalization of the pressures on review of the
   hemodynamics, concerned for tamponade physiology, r/o with cardiac echo
   via fellow.  also confirmed location of the closure device.
   - Noted to have a Hct drop that was spurious.
   - As per conversation with family, dialysis is not an option currently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2151-11-24**] 04:00 AM
   Acyclovir - [**2151-11-24**] 04:00 PM
   Ampicillin - [**2151-11-24**] 04:00 PM
   Ciprofloxacin - [**2151-11-25**] 10:25 PM
   Vancomycin - [**2151-11-25**] 10:40 PM
   Doxycycline - [**2151-11-26**] 12:00 AM
   Clindamycin - [**2151-11-26**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-26**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 550 units/hour
   Fentanyl - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.32 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2151-11-26**] 12:00 AM
   Sodium Bicarbonate 8.4% (Amp) - [**2151-11-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.5
C (104.9
   Tcurrent: 40.4
C (104.7
   HR: 110 (102 - 143) bpm
   BP: 78/69(72) {76/62(66) - 91/85(87)} mmHg
   RR: 20 (20 - 22) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 13 (12 - 30)mmHg
   PAP: (23 mmHg) / (14 mmHg)
   PCWP: 18 (18 - 18) mmHg
   CO/CI (Fick): (4.4 L/min) / (2.1 L/min/m2)
   CO/CI (CCO): (2.2 L/min) / (1 L/min/m2)
   SvO2: 65%
   Mixed Venous O2% Sat: 49 - 58
   Total In:
                                                                  3,152 mL
                                                                  1,510 mL
   PO:
   TF:
   IVF:
                                                                  2,853 mL
                                                                  1,100 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                    431 mL
                                                                    819 mL
   Urine:
                                                                    431 mL
                                                                     19 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,721 mL
                                                                    691 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (430 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 125 cmH2O/mL
   SpO2: 87%
   ABG: 7.19/31/156/14/-15
   Ve: 12.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GENERAL: WDWN, sedated and intubated.
   HEENT: NCAT,  Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma. Pupils are not reactive to
   light.
   NECK: Supple, unable to assess JVP
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Distant heart sounds.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. no accessory
   muscle use. CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No femoral bruits, [**2-16**]+ edema throughout
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   226 K/uL
   10.2 g/dL
   224 mg/dL
   1.9 mg/dL
   14 mEq/L
   5.3 mEq/L
   39 mg/dL
   98 mEq/L
   128 mEq/L
   32.8 %
   16.4 K/uL
        [image002.jpg]
                            [**2151-11-26**]  12:05 AM
                            [**2151-11-26**]  12:14 AM
                            [**2151-11-26**]  01:30 AM
                            [**2151-11-26**]  02:52 AM
                            [**2151-11-26**]  02:57 AM
                            [**2151-11-26**]  03:34 AM
                            [**2151-11-26**]  03:39 AM
                            [**2151-11-26**]  04:02 AM
                            [**2151-11-26**]  06:05 AM
                            [**2151-11-26**]  06:26 AM
   WBC
   9.4
   16.4
   Hct
   32
   22.9
   33
   32.7
   32.8
   Plt
   165
   226
   Cr
   1.6
   1.9
   TCO2
   17
   17
   16
   16
   12
   Glucose
   232
   224
   Other labs: PT / PTT / INR:23.9/59.9/2.3, CK / CKMB /
   Troponin-T:47/4/0.32, ALT / AST:153/441, Alk Phos / T Bili:74/2.0,
   Amylase / Lipase:/6, Differential-Neuts:66.2 %, Lymph:27.1 %, Mono:6.1
   %, Eos:0.3 %, Lactic Acid:9.2 mmol/L, Albumin:2.7 g/dL, LDH:754 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   48 yo male at baseline immunosupressed given DM and hemochromatosis,
   presented with sudden onset of severe cardiogenic shock of unknown
   etiology.
   .
   # CORONARIES:  The likelihood of multivessel disease is low given the
   acute change in his EF and lack of signficant changes on ECG.
   .
   # PUMP: Decreased EF within the past couple of month, suggest an acute
   process.  Could be [**2-15**] to an infectious / progression of
   hemachromatosis with new diagnosed ASD / metabolic / toxic related
   cardiomyopathy.  With the ASD, this provided a R->L shunt [**2-15**] chronic
   PE and hemachromatosis with a component of restrictive CM leading to
   pulm HTN.  He is in cardiogenic shock without an obvious source of
   infection (on multiple antibiotics with a raising wbc).
   - trend hemodynamics
   - d/c levophed, vassopressin
   - reduce impella
   .
   # RHYTHM: patient was in AFib with RVR the night prior to procedure and
   CCU admission.  Pressure tend to drop during these episodes, intially
   attempted to shock but failed to respond.  Likely [**2-15**] fever and
   possible infectious process, was digoxin loaded.
   - consider pressures support during these episodes
   - rate control as tolerated with dilt/BB vs. DCCV
   - F/u multiple viral cultures including DFA, HIV, PPD today.
   - Consider lower PEEP to allow better heart filling.
   .
   .
   # Hypoxic respiratory failure: Patient is requiring high levels of
   respiratory support but his CXR is relatively clear.  Reason is likely
   [**2-15**] ASD mediated R->L shunt as after ASD closure, patient's O2 sat
   improved.
   - has not improved with Impella device
   - Continues on the ventilator - consider ARDS vent settings.
   - wean off sedation as tolerated
   - wean off vent as tolerated
   .
   # ID: Patient has been spiking fevers without an obvious source
   (Head/Neck CT has been negative and CSF has been negative).  Patient on
   cipro/zosyn/vanc for generalized bacterial infection, clindamycin for
   coverage of toxic shock and doxycycline for atypical source.  Other
   possibility for fever would be a drug fever. ID has been following.
   - on Vancomycin, Piperacillin-Tazobactam, Ciprofloxacin
   - Doxycycline for lyme or erlichia
   - Clindamycin for possible toxic shock syndrome
   - follow up on viral serologies
   ARF:  Likely [**2-15**] underperfusion in the setting of cariogenic shock
   -family is refusing CVVH
   .
   # ESLD/hemachromatosis:  Unable to tap ascites, known varices. LFT's
   trending up.  Likely [**2-15**] ASD shunt with R->L physiology and more
   recently cardiogenic shock.
   - T & S, 2 peripherals
   - f/u cultures
   - Paracentesis if possible
   - Hold spironolactone/nadolol while unstable
   - on lactulose (consider rifaximen)
   .
   # DM2: Glargine & insulin SS
   .
   FEN: No IVF, replete electrolytes, NPO
   .
   ACCESS: PIV's, RIJ, Art line, PA catheter
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with fentanyl gtt
   -Bowel regimen with Bowel reg, lansoprazole
   .
   CODE: Full (discussed with patient and wife).
   .
   COMM:  Wife [**Name (NI) **] [**Telephone/Fax (1) 11391**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2151-11-23**] 06:05 AM
   20 Gauge - [**2151-11-23**] 06:05 AM
   PA Catheter - [**2151-11-23**] 06:35 PM
   Arterial Line - [**2151-11-25**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: